US07932272B2
C-(5-(4-Fluorophenoxy)thiophen-2-yl)methylamine
To a solution of 5-(4-fluorophenoxy)thiophene-2-carbonitrile described in Preparation Example 27 (containing 4-fluorophenol) (3.7 g) in tetrahydrofuran (40 mL) was added lithium aluminum hydride (1.3 g, 34 mmol), and the solution was stirred at room temperature for 30 minutes. Water and ethyl acetate were added to the reaction solution, which was then partitioned, the solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (ethyl acetate, then ethyl acetate:methanol=4:1), and the title compound (1.2 g, 5.4 mmol) was obtained as a brown oil.

reactant | 5-(4-fluorophenoxy)thiophene-2-carbonitrile | FC1=CC=C(OC2=CC=C(S2)C#N)C=C1 | C11H6FNOS
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | lithium aluminum hydride | 34 mmol, 1.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | C-(5-(4-Fluorophenoxy)thiophen-2-yl)methylamine | 5.4 mmol, 1.2 g | FC1=CC=C(OC2=CC=C(S2)CN)C=C1 | C11H10FNOS
